US08541588B2
N-(5-Chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4,5-trifluorobenzenesulfonamide
Prepared according to Preparation 333 using 5-chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine (Preparation 208) and 2,4,5-trifluorobenzenesulfonyl chloride. Purification using ISCO™ (12 g SiO2) eluting with ethyl acetate:heptane (gradient 0:1 to 3:7, by volume) afforded the title compound as an orange solid.

reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | ClC1=CN=C(S1)NCC1=C(C=C(C=C1)OC)OC | C12H13ClN2O2S
reactant | 2,4,5-trifluorobenzenesulfonyl chloride | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)Cl | C6H2ClF3O2S
product | N-(5-Chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4,5-trifluorobenzenesulfonamide | ClC1=CN=C(S1)N(S(=O)(=O)C1=C(C=C(C(=C1)F)F)F)CC1=C(C=C(C=C1)OC)OC | C18H14ClF3N2O4S2
